US07641914B2
1) Preparation of N-(2,3-dihydroxypropyl)-2,2,2-trifluoroacetamide
15 g of 3-aminopropan-1,2-diol (164.6 mmol) were solubilized in 100 ml of tetrahydrofuran in a round-bottomed flask provided with a magnetic bar. The reaction mixture was then cooled to 0° C. on an ice bath and 21.5 ml of ethyl trifluoroacetate (181.1 mmol) were gradually added. The reaction mixture was stirred for 2 hours at room temperature. The crude reaction product was then evaporated to dryness. 29 g of a pure colorless oil were thus obtained (yield: 95%), that product was used without further purification.

reactant | 3-aminopropan-1,2-diol | 164.6 mmol, 15 g | NCC(CO)O | C3H9NO2
reactant | ethyl trifluoroacetate | 181.1 mmol, 21.5 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(2,3-dihydroxypropyl)-2,2,2-trifluoroacetamide | 29 g, yield: 95% | OC(CNC(C(F)(F)F)=O)CO | C5H8F3NO3
